US04386089
2-(2-tert.-Butoxycarbonylimino-4-thiazolin-4-yl)-glyoxylic acid ethyl ester
13.9 g of di-tert.-butyl pyrocarbonate are added dropwise to 10 g of 2-(2-aminothiazol-4-yl)-acetic acid ethyl ester in 30 ml of tert.-butanol at 45° C. After the reaction has ended (thin layer chromatogram), the solvent is stripped off and the residue is taken up in ether. After washing the ether mixture with dilute hydrochloric acid, drying and concentrating, the residue is crystallised by triturating with petroleum ether (melting point after chromatography: 78°-79° C.). 2.7 g of this substance are boiled unde reflux for 16 hours with 2.1 g of selenium dioxide in 50 ml of dioxane containing 1 ml of water. The mixture is then concentrated on a rotary evaporator, the residue is treated with water and ethyl acetate, the organic phase is concentrated on a rotary evaporator and the residue is triturated with petroleum ether.

reactant | di-tert.-butyl pyrocarbonate | 13.9 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(2-aminothiazol-4-yl)-acetic acid ethyl ester | 10 g | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
reactant | tert.-butanol | 30 ml | C(C)(C)(C)O | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-(2-tert.-Butoxycarbonylimino-4-thiazolin-4-yl)-glyoxylic acid ethyl ester | C(C)OC(C(=O)C=1NC(SC1)=NC(=O)OC(C)(C)C)=O | C12H16N2O5S
